US07741327B2
To a cooled solution of (S)-2,2-dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid t-butyl ester (2.05 g, 8.43 mmol) in dry tetrahydrofuran (25 mL) was added 1.4M methyl magnesium bromide in diethyl ether (6.02 mL) at −78° C. The mixture was stirred at −78° C. for 30 min and then warmed to −5° C. The mixture was extracted with diethyl ether and ammonium chloride solution. The organic layer was dried and concentrated. The crude mixture was purified by ISCO flash chromatography (0 to 60% ethyl acetate/hexanes) to give two fractions. The first fraction afforded (S)-4-((S)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester as a colorless oil (870 mg): 1H NMR (300 MHz, CDCl3) δ ppm 1.20 (d, J=6.0 Hz, 3H), 1.42-1.60 (m, 1H), 1.50 (s, 12H), 1.55 (s, 3H), 1.68-1.88 (m, 1H), 3.66 (d, J=8.8 Hz, 1H), 3.69-3.80 (m, 1H), 3.94-4.08 (m, 1H), 4.17-4.30 (m, 1H), 4.62 (br. s., 1H); The second fraction afforded (S)-4-((R)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester as a white solid (740 mg): 1H NMR (300 MHz, CDCl3) δ ppm 1.22 (d, J=6.0 Hz, 3H), 1.49 (s, 12H), 1.58 (br. s., 3H), 1.75-1.90 (m, 2H), 2.56 (br. s., 1H), 3.75-3.93 (m, 2H), 3.95-4.05 (m, 1H), 4.03-4.20 (m, 1H).

reactant | (S)-2,2-dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid t-butyl ester | 8.43 mmol, 2.05 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC=O)(C)C | C12H21NO4
reactant | methyl magnesium bromide | 1.4M | C[Mg]Br
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 6.02 mL | C(C)OCC | C4H10O
product | (S)-4-((S)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester | 870 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C[C@H](C)O)(C)C | C13H25NO4
